US04769375
Ethyl 8a-morpholino-4-(3-nitrophenyl)-2-phenyl-4a,5,6,7,8,8a-hexahydro-4H-chromene-3-carboxylate
A solution of 10.9 g (0.033 mole) of ethyl 3-nitrobenzylidenebenzoylacetoacetate and 5.6 g (0.033 mole) of morpholinocyclohexane in 80 ml of ethanol is boiled under reflux for 4 hours. The solution is concentrated and the residue is triturated with ether, filtered off with suction and recrystallized from ethanol.

reactant | ethyl 3-nitrobenzylidenebenzoylacetoacetate | 0.033 mole, 10.9 g | [N+](=O)([O-])C=1C=C(C=C(C(CC(=O)OCC)=O)C(C2=CC=CC=C2)=O)C=CC1 | C20H17NO6
reactant | morpholinocyclohexane | 0.033 mole, 5.6 g | O1CCN(CC1)C1CCCCC1 | C10H19NO
reactant | ethanol | 80 ml | C(C)O | C2H6O
product | Ethyl 8a-morpholino-4-(3-nitrophenyl)-2-phenyl-4a,5,6,7,8,8a-hexahydro-4H-chromene-3-carboxylate | O1CCN(CC1)C12CCCCC2C(C(=C(O1)C1=CC=CC=C1)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-] | C28H32N2O6
